US07220856B2
Preparation of 7-Chloro-4-[4-(4-methoxyphenylaminocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (316 mg, 1.28 mmol) and 4-methoxyphenyl isocyanate (194 μL, 1.50 mmol) in THF (10 mL) are reacted according to method C yielding the title product as a colorless needles after column chromatography with hexane-EtOAc and recrystallization from ether.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 1.28 mmol, 316 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 4-methoxyphenyl isocyanate | 1.50 mmol, 194 μL | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Chloro-4-[4-(4-methoxyphenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)OC | C21H21ClN4O2
